US06018046
Synthesis of 10-bromo-2-(1-ethoxycarbonyl-1-methylethyloxy)-5-(3-pyridylmethyl)-4H-pyrido[3,2,1-jk]carbazole-4-one
The procedure of Example 3 was repeated by using 10-bromo-2-hydroxy-5-(3-pyridylmethyl)-4H-pyrido[3,2,1-jk]carbazole-4-one (500 mg) and ethyl α-bromoisobutyrate (0.22 ml) to obtain the title compound (470 mg, 74%).

reactant | 10-bromo-2-hydroxy-5-(3-pyridylmethyl)-4H-pyrido[3,2,1-jk]carbazole-4-one | 500 mg | BrC=1C=CC=2N3C4=C(C=C(C=C4C2C1)O)C(C(=C3)CC=3C=NC=CC3)=O | C21H13BrN2O2
reactant | ethyl α-bromoisobutyrate | 0.22 ml | BrC(C(=O)OCC)(C)C | C6H11BrO2
product | 10-bromo-2-(1-ethoxycarbonyl-1-methylethyloxy)-5-(3-pyridylmethyl)-4H-pyrido[3,2,1-jk]carbazole-4-one | 470 mg, 74% | BrC=1C=CC=2N3C4=C(C=C(C=C4C2C1)OC(C)(C)C(=O)OCC)C(C(=C3)CC=3C=NC=CC3)=O | C27H23BrN2O4
